US07994196B2
By a similar operation as in Starting Material Synthetic Example 16, 4-[4-fluoro-3-(trifluoromethyl)phenyl]piperazine-1-carboxylic acid tert-butyl ester was synthesized from 5-bromo-2-fluorobenzotrifluoride (Aldrich Co., 1.5 g) and 1-(tert-butoxycarbonyl)piperazine (1.38 g). These were dissolved in ethyl acetate, 4N hydrochloric acid-ethyl acetate was added, and the mixture was stirred at room temperature for 6 hr. The precipitated solid was collected by filtration and dried to give 1-[4-fluoro-3-(trifluoromethyl)phenyl]piperazine hydrochloride (1.31 g, yield 75%).

reactant | 4-[4-fluoro-3-(trifluoromethyl)phenyl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)F)C(F)(F)F | C16H20F4N2O2
reactant | 5-bromo-2-fluorobenzotrifluoride | 1.5 g | BrC=1C=CC(=C(C1)C(F)(F)F)F | C7H3BrF4
reactant | 1-(tert-butoxycarbonyl)piperazine | 1.38 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-fluoro-3-(trifluoromethyl)phenyl]piperazine hydrochloride | 1.31 g, yield 75% | Cl.FC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | InChI=1S/C11H12F4N2.ClH/c12-10-2-1-8(7-9(10)11(13,14)15)17-5-3-16-4-6-17;/h1-2,7,16H,3-6H2;1H
